US06562978B1
1-Acetyl-4-[4-(methylsulfanyl)benzoyl]piperidine
To a stirred suspension of aluminum chloride (16.66 g, 125 mmol) in dichloromethane (100 mL) was added 1-acetyl-4-piperidinecarbonyl chloride (12.33 g, 65.0 mmol) at −10° C. Thioanisole (6.21 g, 50.0 mmol) was added dropwise at −10° C., the reaction mixture was stirred at room temperature for 1.5 hours. The reaction mixture was poured into ice water (80 g), the organic layer was separated and the aqueous layer was extracted with dichloromethane (40 mL) The combined organic layers were washed with 1N aqueous sodium hydroxide (2×40 mL), brine (40 mL), dried over anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure. Ethyl acetate and diethyl ether was added to the residue, the resulting precipitate was collected by filtration, washed with diethyl ether, and dried under reduced pressure to afford the title compound (11.43 g, 41.2 mmol, 82%) as a white solid.

reactant | aluminum chloride | 125 mmol, 16.66 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-acetyl-4-piperidinecarbonyl chloride | 65.0 mmol, 12.33 g | C(C)(=O)N1CCC(CC1)C(=O)Cl | C8H12ClNO2
reactant | Thioanisole | 50.0 mmol, 6.21 g | C1(=CC=CC=C1)SC | C7H8S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-Acetyl-4-[4-(methylsulfanyl)benzoyl]piperidine | 41.2 mmol, 11.43 g, 82% | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)SC)=O | C15H19NO2S
